US07893088B2
A mixture of 6-methoxy-7-methylisoquinolin-1-ylamine (5.11 g, 27.18 mmol) and 48% aqueous hydrobromic acid (150 ml) was heated at 125° C. for 2 days. The mixture was concentrated in vacuo and triturated with diethyl ether, dried in vacuo to give 1-amino-7-methyl-isoquinolin-6-ol hydrobromide (5 g), EIMS: m/z=175.1 [M+H]+. 1H NMR (DMSO-D6) δ7.06 (1H, d), 7.16 (1H, d) , 7.25 (1H, dd), 7.56 (1H, d), 8.44 (1H, dd), 8.66 (2H, broad s), 11.05 (1H, s), 12.45 (1H, s).

reactant | 6-methoxy-7-methylisoquinolin-1-ylamine | 27.18 mmol, 5.11 g | COC=1C=C2C=CN=C(C2=CC1C)N | C11H12N2O
reactant | hydrobromic acid | 150 ml | Br | BrH
product | 1-amino-7-methyl-isoquinolin-6-ol hydrobromide | 5 g | Br.NC1=NC=CC2=CC(=C(C=C12)C)O | InChI=1S/C10H10N2O.BrH/c1-6-4-8-7(5-9(6)13)2-3-12-10(8)11;/h2-5,13H,1H3,(H2,11,12);1H
